### PR TITLE
[Merged by Bors] - feat: f is lowersemicontinuous iff -f is uppersemicontinuous

### PR DESCRIPTION
**Pull request by CoolRmal**
Proved that a function `f` is lowersemicontinuous iff `-f` is uppersemicontinuous. Also changed the hypothesis of `upperSemicontinuousOn_iff_preimage_Iio` from LinearOrder to Preorder.

Used in the proof of conditional Jensen's inequality for concave functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Notation/Pi/Defs.lean [hunk 1]
```diff
@@ -88,6 +88,9 @@ instance instInv : Inv (∀ i, G i) where inv f i := (f i)⁻¹
 @[to_additive (attr := simp)]
 lemma inv_apply (f : ∀ i, G i) (i : ι) : f⁻¹ i = (f i)⁻¹ := rfl
 
+@[to_additive]
+lemma _root_.inv_eq_inv_comp (f : α → β) [Inv β] : f⁻¹ = Inv.inv ∘ f := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Notation/Pi/Defs.lean]: why is this in the root namespace?

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 2]
```diff
@@ -874,18 +874,51 @@ end
...
 
-theorem upperSemicontinuousOn_iff_preimage_Ici :
+theorem upperSemicontinuousOn_iff_preimage_Ici [LinearOrder β] :
     UpperSemicontinuousOn f s ↔ ∀ b, ∃ v : Set α, IsClosed v ∧ s ∩ f ⁻¹' Set.Ici b = s ∩ v :=
   lowerSemicontinuousOn_iff_preimage_Iic (γ := βᵒᵈ)
 
+variable [PartialOrder β] [AddCommGroup β] [IsOrderedAddMonoid β]
+
+theorem upperSemicontinuousOn_iff_lowerSemiContinuousOn_neg :
+    UpperSemicontinuousOn f s ↔ LowerSemicontinuousOn (-f) s := by
```
Comment (themathqueen) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: How about flipping the order for all the results here?
That way, you have the choice of either naming them `lower/upperSemicontinuousOn_neg_iff` or `..._neg_iff_...` if you want. And maybe they could be `simp` lemmas?

```suggestion
    LowerSemicontinuousOn (-f) s ↔ UpperSemicontinuousOn f s := by
```

File: Mathlib/Algebra/Notation/Pi/Defs.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/Algebra/Notation/Pi/Defs.lean]: Otherwise the name is `Pi.inv_eq_inv_comp`, but `f` is not a dependent-type function and I thought it is better to not use the `Pi` namespace. It is possible that I may be wrong about the convention in Mathlib.

Comment (themathqueen) [reply Mathlib/Algebra/Notation/Pi/Defs.lean]: I think it's fine if you namespace it (and probably should, otherwise it could be confusing). I mean, just below it, you can see [Pi.inv_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Notation/Pi/Defs.html#Pi.inv_comp).

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 3]
```diff
@@ -874,18 +874,53 @@ end
...
 variable {γ : Type*} [TopologicalSpace γ]
 variable {f : α → β} {g : γ → α} {s : Set α} {a : α} {c : γ} {t : Set γ}
 
-theorem upperSemicontinuousOn_iff_preimage_Iio :
+theorem upperSemicontinuousOn_iff_preimage_Iio [Preorder β] :
     UpperSemicontinuousOn f s ↔ ∀ b, ∃ u : Set α, IsOpen u ∧ s ∩ f ⁻¹' Set.Iio b = s ∩ u :=
   lowerSemicontinuousOn_iff_preimage_Ioi (β := βᵒᵈ)
 
-theorem upperSemicontinuousOn_iff_preimage_Ici :
+theorem upperSemicontinuousOn_iff_preimage_Ici [LinearOrder β] :
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Basic.lean:885]: I think this serves no purpose right now. If you really need upper semicontinuous functions on preorder, then a larger refactor is in order.

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 4]
```diff
@@ -874,18 +874,53 @@ end
...
     UpperSemicontinuousOn f s ↔ ∀ b, ∃ v : Set α, IsClosed v ∧ s ∩ f ⁻¹' Set.Ici b = s ∩ v :=
   lowerSemicontinuousOn_iff_preimage_Iic (γ := βᵒᵈ)
 
+variable [PartialOrder β] [AddCommGroup β] [IsOrderedAddMonoid β]
+
+@[simp]
+theorem lowerSemicontinuousOn_neg_iff :
+    LowerSemicontinuousOn (-f) s ↔ UpperSemicontinuousOn f s := by
+  simp_all only [lowerSemicontinuousOn_iff_preimage_Ioi, upperSemicontinuousOn_iff_preimage_Iio]
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: You only proved this for the `On` variant (instead of also `WithinAt` and `At`) because your proof technique uses these lemmas. If you use a different technique, you won't have that limitation.

For example:

```lean
import Mathlib.Topology.Semicontinuity.Basic

variable {α β : Type*} [TopologicalSpace α] [PartialOrder β] [AddCommGroup β] [IsOrderedAddMonoid β]
variable {f : α → β} {s : Set α} {x : α}

@[simp]
theorem lowerSemicontinuousWithinAt_neg_iff :
    LowerSemicontinuousWithinAt (-f) s x ↔ UpperSemicontinuousWithinAt f s x := by
  rw [lowerSemicontinuousWithinAt_iff, neg_surjective.forall, upperSemicontinuousWithinAt_iff]
  simp
```

File: Mathlib/Topology/Semicontinuity/Basic.lean (hunk 3 above)
Comment (CoolRmal) [reply Mathlib/Topology/Semicontinuity/Basic.lean:885]: I made this change because [lowerSemicontinuous_iff_isOpen_preimage](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Semicontinuity/Basic.html#lowerSemicontinuous_iff_isOpen_preimage) only requires `[Preorder β]`.

File: Mathlib/Algebra/Notation/Pi/Defs.lean [hunk 5]
```diff
@@ -88,6 +88,9 @@ instance instInv : Inv (∀ i, G i) where inv f i := (f i)⁻¹
 @[to_additive (attr := simp)]
 lemma inv_apply (f : ∀ i, G i) (i : ι) : f⁻¹ i = (f i)⁻¹ := rfl
 
+@[to_additive]
+lemma inv_eq_inv_comp (f : α → β) [Inv β] : f⁻¹ = Inv.inv ∘ f := rfl
+
```
Comment (RemyDegenne) [inline Mathlib/Algebra/Notation/Pi/Defs.lean]: It looks like you are not using this. Let's not add it then? It does not seem very useful.

```suggestion
```
